US07148229B2
To a solution of (4-tert-butoxycarbonylamino-phenyl)-acetic acid (0.825 mmol) and crude 5,6-diamino-1,3-dimethyl-1H-pyrimidine-2,4-dione (0.75 mmol) in N,N-dimethylformamide (3 mL) under argon at 25° C. was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride(0.825 mmol) and 4-dimethylaminopyridine (0.15 mmol). The reaction was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was triturated with water and the resulting solid collected by filtration, washed well with water and dried in vacuo to afford crude {4-[(6-amino-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-methyl]-phenyl}-carbamic acid tert-butyl ester as a light beige solid which was of sufficient purity for subsequent use without additional purification (87%).

reactant | (4-tert-butoxycarbonylamino-phenyl)-acetic acid | 0.825 mmol | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C13H17NO4
reactant | 5,6-diamino-1,3-dimethyl-1H-pyrimidine-2,4-dione | 0.75 mmol | NC=1C(N(C(N(C1N)C)=O)C)=O | C6H10N4O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.825 mmol | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.15 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | {4-[(6-amino-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-methyl]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC(NC=1C(N(C(N(C1N)C)=O)C)=O)=O)=O | C19H25N5O5
